
.lib /home/paul/.volare/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include "counter_extracted.cir"

* Instantiate the extracted subcircuit
XA RESET CLK COUNT_2 COUNT_1 VPWR COUNT_3 COUNT_0 LOCALCLK VGND counter



* Simulation sources
V0 VGND GND 0
V1 VPWR GND 1.8
V2 CLK GND PULSE(0 1.8 1ns 100ps 100ps 10ns 20ns)
V3 COUNT_0 GND 0
V4 COUNT_1 GND 1.8
V5 COUNT_2 GND 1.8
V6 COUNT_3 GND 1.8
V7 RESET GND 0

* Simulation commands
.tran 0.02n 600n
.control
run
plot v(LOCALCLK)
.endc
.end
